US09353075B2
Step 1. Preparation of ethyl 2-(dibenzylamino)-acetate
To a stirred solution of ethyl chloroacetate (1.0 g, 8.16 mmol) in EtOH (5.0 mL), dibenzylamine (2.09 g, 10.6 mmol) was added and the mixture heated at 140° C. in a microwave reactor for 20 min. After evaporation of the solvent, the crude was dissolved in CH2Cl2 and washed with a 1.0 M KOH solution and brine, then dried over Na2SO4, filtered, and concentrated in vacuo to give a crude product, as an oil. Purification by column chromatography using a Teledyne ISCO apparatus, eluting with Cy:EtOAc (98:2), gave the title compound (1.85 g, 80%), as a white solid. MS (ESI) m/z: 284 [M−H]+[1H NMR as previously reported in literature: Synthesis, 1985, 9, 850-855].

reactant | ethyl chloroacetate | 8.16 mmol, 1.0 g | ClCC(=O)OCC | C4H7ClO2
reactant | dibenzylamine | 10.6 mmol, 2.09 g | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
solvent | EtOH | 5.0 mL | CCO | C2H6O
product | ethyl 2-(dibenzylamino)-acetate | 1.85 g, 80% | C(C1=CC=CC=C1)N(CC(=O)OCC)CC1=CC=CC=C1 | C18H21NO2
